US06388088B1
A solution of 3-cyclopentyl-2-[3-fluoro-4-(5-methyl-tetrazol-1-yl)-phenyl]-propionic acid methyl ester (400 mg, 1.2 mmol) in ethanol (8 mL) was treated with a 1N aqueous sodium hydroxide solution (2.5 mL). The solution was heated at 45-50° C. for 5 h, at which time, thin layer chromatography analysis of the reaction mixture indicated the absence of starting material. The reaction mixture was concentrated in vacuo to remove ethanol. The residue was diluted with water (40 mL) and extracted with diethyl ether (1×50 mL) to remove any neutral impurities. The aqueous layer was then acidified with a 1N aqueous hydrochloric acid solution, and the resulting acid was extracted into ethyl acetate (2×50 mL). The combined organic layers were washed with a saturated aqueous sodium chloride solution (1×50 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to afford 3-cyclopentyl-2-[3-fluoro-4-(5-methyl-tetrazol-1-yl)-phenyl]-propionic acid (360 mg, 94%) as a yellow solid: EI-HRMS m/e calcd for C16H19FN4O2 (M+) 318.1487, found 318.1492.

reactant | 3-cyclopentyl-2-[3-fluoro-4-(5-methyl-tetrazol-1-yl)-phenyl]-propionic acid methyl ester | 1.2 mmol, 400 mg | COC(C(CC1CCCC1)C1=CC(=C(C=C1)N1N=NN=C1C)F)=O | C17H21FN4O2
reactant | sodium hydroxide | 1N, 2.5 mL | [OH-].[Na+]
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 3-cyclopentyl-2-[3-fluoro-4-(5-methyl-tetrazol-1-yl)-phenyl]-propionic acid | 360 mg, 94% | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)N1N=NN=C1C)F | C16H19FN4O2
